US09359375B2
A mixture of (R)-tert-butyl 1-amino-3-(4-iodophenyl)-1-oxopropan-2-ylcarbamate (370 mg, 0.948 mmol), imidazole (85 mg, 1.25 mmol), 8-hydroxyquinoline (30 mg, 0.206 mmol), K2CO3 (150 mg, 1.08 mmol) and CuI (20 mg, 0.105 mmol) in DMSO (4 mL) was degassed with argon, then was stirred at 130 C for 18 h. The mixture was purified by HPLC to give (R)-tert-butyl 3-(4-(1H-imidazol-1-yl)phenyl)-1-amino-1-oxopropan-2-ylcarbamate (250 mg).

reactant | (R)-tert-butyl 1-amino-3-(4-iodophenyl)-1-oxopropan-2-ylcarbamate | 0.948 mmol, 370 mg | NC([C@@H](CC1=CC=C(C=C1)I)NC(OC(C)(C)C)=O)=O | C14H19IN2O3
reactant | imidazole | 1.25 mmol, 85 mg | N1C=NC=C1 | C3H4N2
reactant | 8-hydroxyquinoline | 0.206 mmol, 30 mg | OC=1C=CC=C2C=CC=NC12 | C9H7NO
reactant | K2CO3 | 1.08 mmol, 150 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 4 mL | CS(=O)C | C2H6OS
catalyst | CuI | 0.105 mmol, 20 mg | [Cu]I
product | (R)-tert-butyl 3-(4-(1H-imidazol-1-yl)phenyl)-1-amino-1-oxopropan-2-ylcarbamate | 250 mg | N1(C=NC=C1)C1=CC=C(C=C1)C[C@H](C(=O)N)NC(OC(C)(C)C)=O | C17H22N4O3
